US04985585
Ethyl 4-[6-acetyl-3-[2-(4-acetyl-3-hydroxy-2-propylphenylthio)-ethoxy]-2-propylphenoxy]butyrate
A mixture of ethyl 4-(6-acetyl-3-(2-chloroethoxy)-2-propylphenoxybutyrate (0.60 g), (2-hydroxy-4-mercapto-3-propylphenyl)-ethanone (0.51 g), potassium iodide (0.1 g) and potassium carbonate (0.65 g) in acetone (40 ml) was heated and refluxed with stirring for 19 hours. After cooled, inorganic materials were separated by filtration and the filtrate was concentrated. The resultant residue was separated and purified through silica gel column chromatography (eluting with benzene:ethyl acetate=15:1, then 9:1) to give the title compound (0.73 g, 82.8%) as brown oil.

reactant | 6-acetyl-3-(2-chloroethoxy)-2-propylphenoxybutyrate | 0.60 g | C(C)(=O)C1=CC=C(C(=C1OC(C(=O)[O-])CC)CCC)OCCCl
reactant | (2-hydroxy-4-mercapto-3-propylphenyl)-ethanone | 0.51 g | OC1=C(C=CC(=C1CCC)S)C(C)=O | C11H14O2S
reactant | potassium iodide | 0.1 g | [I-].[K+]
reactant | potassium carbonate | 0.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 40 ml | CC(=O)C | C3H6O
product | Ethyl 4-[6-acetyl-3-[2-(4-acetyl-3-hydroxy-2-propylphenylthio)-ethoxy]-2-propylphenoxy]butyrate | 0.73 g, 82.8% | C(C)(=O)C1=CC=C(C(=C1OCCCC(=O)OCC)CCC)OCCSC1=C(C(=C(C=C1)C(C)=O)O)CCC | C30H40O7S
